US08207164B2
f) 5-(3-Bromo-phenyl)-5-fluoromethyl-morpholine-3-thione
A mixture of 5-(3-bromo-phenyl)-5-fluoromethyl-morpholin-3-one (1.52 g, 5.28 mmol) and Lawesson's reagent (2.14 g, 5.28 mmol) in 21 ml of THF was heated at 50° C. for 1 h and then evaporated. The residue was chromatographed on silica gel (cyclohexane/EtOAc=15:1) to give the title compound in the form of a colourless foam. TLC (hexane/EtOAc=3:1): Rf=0.21; HPLC: RtH2=3.49 min; 1H-NMR (400 MHz, CD3OD): 7.65 (s, 1H), 7.58 (d, 1H), 7.47 (d, 1H), 7.39 (t, 1H), 4.87 (s, 2H), 4.63 (d, 1H), 4.50 (s, 2H), 4.02 (d, 1H); MS: 304, 306 [(M+H)+].

reactant | 5-(3-bromo-phenyl)-5-fluoromethyl-morpholin-3-one | 5.28 mmol, 1.52 g | BrC=1C=C(C=CC1)C1(COCC(N1)=O)CF | C11H11BrFNO2
reactant | Lawesson's reagent | 5.28 mmol, 2.14 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 21 ml | C1CCOC1 | C4H8O
product | 5-(3-Bromo-phenyl)-5-fluoromethyl-morpholine-3-thione | BrC=1C=C(C=CC1)C1(COCC(N1)=S)CF | C11H11BrFNOS
